US06900215B2
3-(3-Bromo-4-fluorophenyl)-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 3-tri-n-butylstannylpyridine as described in Example 32 to give 3-[4-fluoro-3-(pyridin-3-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine: δH (400 MHz, DMSO) 7.51 (1H, d, J 7), 7.53-7.64 (2H, m), 7.85-7.89 (1H, m), 8.03 (1H, dd, J 7 and 2), 8.12 (1H, dd, J 8 and 2), 8.34 (1H, s), 8.66 (1H, dd, J 5 and 2), 8.90 (1H, t, J 2), 9.38 (1H, d, J 7); m/z (ES+) 359 (M++H).

reactant | 3-(3-Bromo-4-fluorophenyl)-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C13H6BrF4N3
reactant | 3-tri-n-butylstannylpyridine | C(CCC)[Sn](C=1C=NC=CC1)(CCCC)CCCC
product | 3-[4-fluoro-3-(pyridin-3-yl)phenyl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C=2C=NC=CC2 | C18H10F4N4
